US04902798
In a reactor were charged p-toluidine (80 parts), 1-methylamino-4-bromoanthraquinone (15.8 parts), sodium acetate (7.5 parts) and copper acetate (0.5 part) and the mixture was kept at 115° to 120° C. for 6 hours under a nitrogen atmosphere. Thereafter, the reaction mixture was diluted with methanol (100 parts) and cooled. The precipitate produced was filtrated, washed with methanol (500 parts) and then water (200 parts), and dried at 80° to 90° C. to obtain 1-methylamino-4-(4'-methylanilino)-anthraquinone (yield 82%).

reactant | p-toluidine | NC1=CC=C(C=C1)C | C7H9N
reactant | 1-methylamino-4-bromoanthraquinone | CNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)Br | C15H10BrNO2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | methanol | CO | CH4O
catalyst | copper acetate | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1-methylamino-4-(4'-methylanilino)-anthraquinone | yield 82% | CNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NC1=CC=C(C=C1)C | C22H18N2O2
